US07652022B2
Stage 135.3: 3-Amino-N,N-dimethyl-5-trifluoromethyl-benzamide
Hydrogenation of (3-nitro-N,N-dimethyl-5-trifluoromethyl-benzamide (12.6 g, 48 mmol) in THF (250 ml) in the presence of Raney-Nickel (3 g), filtration through celite, concentration of the filtrate and crystallization from hexane gives the title compound: m.p.: 154° C.; MS: [M+1]+=233; 1H-NMR (CD3OD): 6.97 (s, 1H), 6.84 (s, 2H), 3.09 (s, 3H), 2.99 (s, 3H).

reactant | 3-nitro-N,N-dimethyl-5-trifluoromethyl-benzamide | 48 mmol, 12.6 g | [N+](=O)([O-])C=1C=C(C(=O)N(C)C)C=C(C1)C(F)(F)F | C10H9F3N2O3
solvent | THF | 250 ml | C1CCOC1 | C4H8O
catalyst | Raney-Nickel | 3 g | [Ni] | Ni
product | 3-Amino-N,N-dimethyl-5-trifluoromethyl-benzamide | NC=1C=C(C(=O)N(C)C)C=C(C1)C(F)(F)F | C10H11F3N2O
